US07157488B2
Combine 6-fluoroindole (108 g, 0.8 mol) and dichloromethane (324 ml). Cool in an ice bath. Add trifluoroacetic acid (308 ml) over a few minutes (exothermic). Add a solution of Z-1-dimethylamino-2-nitroethylene (94.7 g, 0.816 mol) in dichloromethane (600 ml) during 40 minutes while maintaining the temperature at about 0–5° C. After 45 minutes, warm to about 20° C. After 2 hours, pour over 1.2 L ice water and stirring overnight with seeding to give a solid. Collect the solid by filtration, wash first with 100 ml of a mixture dichloromethane-cyclohexane 1/1, then with 750 ml of water and dry at 40° C. to give 3-(2-nitrovinyl)-6-fluoroindole.

reactant | 6-fluoroindole | 0.8 mol, 108 g | FC1=CC=C2C=CNC2=C1 | C8H6FN
reactant | trifluoroacetic acid | 308 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | Z-1-dimethylamino-2-nitroethylene | 0.816 mol, 94.7 g | CN(\C=C/[N+](=O)[O-])C | C4H8N2O2
solvent | dichloromethane | 600 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 324 ml | ClCCl | CH2Cl2
product | 3-(2-nitrovinyl)-6-fluoroindole | [N+](=O)([O-])C=CC1=CNC2=CC(=CC=C12)F | C10H7FN2O2
